US05380729
A mixture of 15.6 g (0.105 mol) of 1,1,1-trimethoxyisobutane, 10 g (0.0962 mol) of 2(S),4(S)-dihydroxypentane, and 251 mg of PPTS in 150 ml of toluene (dried over 3° A sieves) was allowed to reflux under argon for 11/2 hours while azeotroping water formed using the Dean-Stark trap. The reaction mixture was cooled, 1.2 g of potassium tert. butoxide was added, and the solvent was distilled. Ether (100 ml) was added to the residue, passed through a supercel pad eluting with 300 ml of ether, and the combined solvent was distilled in vacuo (<40° C.). The residue was distilled to afford 14.3 g (79.4%) of 2-isopropyl-2-methoxy-4(R),6(R)-dimethyl-1,3-dioxane, b.p. 78°-82° C./15 mm.

reactant | 1,1,1-trimethoxyisobutane | 0.105 mol, 15.6 g | COC(C(C)C)(OC)OC | C7H16O3
reactant | 2(S),4(S)-dihydroxypentane | 0.0962 mol, 10 g | O[C@@H](C)C[C@H](C)O | C5H12O2
reactant | potassium tert. butoxide | 1.2 g | CC(C)([O-])C.[K+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | PPTS | 251 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
product | 2-isopropyl-2-methoxy-4(R),6(R)-dimethyl-1,3-dioxane | 14.3 g, 79.4% | C(C)(C)C1(O[C@@H](C[C@H](O1)C)C)OC | C10H20O3
